US08067408B2
236(a) To a solution of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-5-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide (130 mg, 0.19 mmol) in DCM (2 mL) was added tert-butyl 1-homopiperazine carboxylate (0.04 mL, 0.21 mmol), AcOH (0.01 mL, 0.23 mmol) followed by NaBH(OAc)3 (57.2 mg, 0.27 mmol). The reaction mixture was stirred at RT overnight. LC-MS showed minor amount of starting material remaining so 0.5 equiv. of tert-butyl 1-homopiperazine carboxylate and 1 equiv of NaBH(OAc)3 were added to the mixture. It was stirred for an additional 4 h. LC-MS showed no more starting material. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give a crude residue. It was purified with CombiFlash chromatography, eluting with 0 to 10% MeOH (2M NH3 in MeOH) in DCM. The product fractions were combined and concentrated under vacuum to give 1,1-dimethylethyl 4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}hexahydro-1H-1,4-diazepine-1-carboxylate (131 mg, 79%). LC-MS m/z 859 (M+H)+.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-5-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.19 mmol, 130 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)C=O)CC | C39H42N6O5
reactant | tert-butyl 1-homopiperazine carboxylate | 0.21 mmol, 0.04 mL | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | AcOH | 0.23 mmol, 0.01 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.27 mmol, 57.2 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert-butyl 1-homopiperazine carboxylate | 0.5 equiv. | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | NaBH(OAc)3 | 1 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}hexahydro-1H-1,4-diazepine-1-carboxylate | 131 mg, 79% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2CCN(CCC2)C(=O)OC(C)(C)C)CC | C49H62N8O6
